US07153854B2
To a solution of ethyl 6-(3-cyanobenzoyl)-7-oxooctanoate (3.18 g) in toluene (30 mL) was added 2-ethyl-1H-pyrrol-1-amine (1.17 g) and p-toluenesulfonic acid monohydrate (96 mg) at ambient temperature. The reaction mixture was refluxed for 1 hour. The mixture was evaporated in vacuo. The residue was purified by flash silica gel chromatography (silica gel, 200 mL) eluting with hexane-ethyl acetate=20-1, 15-1, and 10-1 to give ethyl 5-[4-(3-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate (3.29 g, 83.8%) as an yellow oil.

reactant | ethyl 6-(3-cyanobenzoyl)-7-oxooctanoate | 3.18 g | C(#N)C=1C=C(C(=O)C(CCCCC(=O)OCC)C(C)=O)C=CC1 | C18H21NO4
reactant | 2-ethyl-1H-pyrrol-1-amine | 1.17 g | C(C)C=1N(C=CC1)N | C6H10N2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 96 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | ethyl 5-[4-(3-cyanophenyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 3.29 g, 83.8% | C(#N)C=1C=C(C=CC1)C=1C=2N(N=C(C1CCCCC(=O)OCC)C)C(=CC2)CC | C24H27N3O2
